US07018988B2
(2S,4EZ)-N-[(1S,2S)-2-hydroxy-1-(hydroxymethyl)-2-(4-nitrophenyl)ethyl]-4-(methoxyimino)-1-[(2′-methyl[1,1′-biphenyl]-4yl)carbonyl]-2-pyrrolidinecarboxamide
Following the general method as outlined in Example 22, starting from (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(methoxyimino)-2-pyrrolidinecarboxylic acid, 2′-methyl[1,1′-biphenyl]-4-carboxylic acid, and (1S,2S)-2-amino-1-(4-nitrophenyl)-1,3-propanediol, the title compound was obtained in 74% purity by HPLC. MS(ESI+): m/z=547.

reactant | (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(methoxyimino)-2-pyrrolidinecarboxylic acid | C(C)(C)(C)OC(=O)N1[C@@H](CC(C1)=NOC)C(=O)O | C11H18N2O5
reactant | 2′-methyl[1,1′-biphenyl]-4-carboxylic acid | CC1=C(C=CC=C1)C1=CC=C(C=C1)C(=O)O | C14H12O2
reactant | (1S,2S)-2-amino-1-(4-nitrophenyl)-1,3-propanediol | N[C@H]([C@@H](O)C1=CC=C(C=C1)[N+](=O)[O-])CO | C9H12N2O4
product | (2S,4EZ)-N-[(1S,2S)-2-hydroxy-1-(hydroxymethyl)-2-(4-nitrophenyl)ethyl]-4-(methoxyimino)-1-[(2′-methyl[1,1′-biphenyl]-4yl)carbonyl]-2-pyrrolidinecarboxamide | O[C@H]([C@H](CO)NC(=O)[C@H]1N(CC(C1)=NOC)C(=O)C1=CC=C(C=C1)C1=C(C=CC=C1)C)C1=CC=C(C=C1)[N+](=O)[O-] | C29H30N4O7
